### PR TITLE
Create Adjunctions.agda

### PR DESCRIPTION
**Pull request by tetrapharmakon**
The category of adjunctions splitting a given monad, and proof that `Kleisli` and `EilenbergMoore` are initial and terminal in it.

### CODE REVIEW

File: src/Categories/Adjoint/Construction/AdjunctionTerminalInitial.agda [hunk 1]
```diff
@@ -0,0 +1,84 @@
+{-# OPTIONS --without-K --safe #-}
+
+open import Level
+open import Categories.Category.Core using (Category)
+open import Categories.Category
+open import Categories.Monad
+
+module Categories.Adjoint.Construction.AdjunctionTerminalInitial {o ℓ e} {C : Category (o ⊔ ℓ ⊔ e) (ℓ ⊔ e) e} (M : Monad C) where
```
Comment (JacquesCarette) [inline src/Categories/Adjoint/Construction/AdjunctionTerminalInitial.agda:8]: I would be tempted to call this `Categories.Adjoint.Construction.Adjunctions.Properties`.

**Comment by JacquesCarette** [comment]
This was a good start @tetrapharmakon . Ready to come back to this and 'finish' it? Is there something I can do to help that along?

**Comment by iwilare** [comment]
We think we laid down all relevant equalities and constraints required to complete the proofs in `Adjunctions.Properties`. The remaining proofs for `homomorphism` certainly looks like a hard journey to complete; perhaps you can see some easier way to close this?

**Comment by JacquesCarette** [comment]
I think what makes sense to do would to be to do this in phases: first the basic construction (which is done), then its properties (in progress).  I could comment out the unfinished bits and bring the rest in now.

I can then look to see if I have ideas on how to complete the holes.

File: src/Categories/Adjoint/Construction/Adjunctions.agda [hunk 2]
```diff
@@ -0,0 +1,163 @@
...
+    H : Functor X.D Y.D
+    Γ : H ∘F X.F ≃ Y.F
+
+  module Γ = NaturalIsomorphism Γ
+  module H = Functor H
+
+  field
+    μ-comp : ∀ {x : Obj} → Y.GF≃M.⇐.η x ≈ Y.G.F₁ (Γ.⇒.η x) ∘ ((Y.G.F₁ (Functor.F₁ H (X.adj.counit.η (X.F.F₀ x)))) ∘ Y.G.F₁ (Γ.⇐.η (X.G.F₀ (X.F.F₀ x))) ∘ (Y.adj.unit.η (X.G.F₀ (X.F.F₀ x)))) ∘ X.GF≃M.⇐.η x
+
+Split : Monad C → Category _ _ _
```
Comment (JacquesCarette) [inline src/Categories/Adjoint/Construction/Adjunctions.agda:82]: (I know this is still a draft, I'm just curious, so I started looking around.)

I believe that `Split` now has 2 monad instances in scope, but called `M`...

File: src/Categories/Adjoint/Construction/Adjunctions/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,186 @@
...
+  { D = Kleisli M
+  ; F = KL.Free
+  ; G = KL.Forgetful
+  ; adj = KL.Free⊣Forgetful
+  ; GF≃M = KL.FF≃F
+  ; η-eq = begin
+             M.F.₁ id ∘ M.η.η _ ≈⟨ M.F.identity ⟩∘⟨refl ⟩
+             id ∘ M.η.η _       ≈⟨ identityˡ ⟩
+             M.η.η _            ∎
+  ; μ-eq = begin M.F.₁ id ∘ M.μ.η _                                     ≈⟨ M.F.identity ⟩∘⟨refl ⟩
```
Comment (JacquesCarette) [inline src/Categories/Adjoint/Construction/Adjunctions/Properties.agda:67]: Agda doesn't like it when you put such long proofs inline. It's much better to name it, either in a private block above, or in the `where` clause below.

Also: `id-comm` and `id-comm-sym` exist for switching `id` from one side to the other in 1 line.

File: src/Categories/Tactic/Category.agda [hunk 4]
```diff
@@ -19,166 +19,165 @@ open import Data.List    as List    using (List; _∷_; [])
...
-  just (lhs , rhs) ← returnTC (getArgs hole′)
-    where nothing → typeError (termErr hole′ ∷ [])
-  let soln = constructSoln mon names lhs rhs
-  unify hole soln
-
-macro
-  solve : Term → Term → TC _
-  solve = solve-macro
-
+-- open import Reflection.Argument
```
Comment (JacquesCarette) [inline src/Categories/Tactic/Category.agda:22]: Are the edits to this file meant to be in this PR?

Comment (iwilare) [reply src/Categories/Tactic/Category.agda:22]: No, I think we just forgot to unstage this temporary fix, since Reflection changed in the latest version of agda-stdlib, thank you for the heads up!

File: src/Categories/Adjoint/Construction/Adjunctions/Properties.agda (hunk 3 above)
Comment (iwilare) [reply src/Categories/Adjoint/Construction/Adjunctions/Properties.agda:67]: Thank you, fixed! We found out about those helpers after writing those proofs...

File: src/Categories/Adjoint/Construction/Adjunctions.agda (hunk 2 above)
Comment (iwilare) [reply src/Categories/Adjoint/Construction/Adjunctions.agda:82]: Thank you, fixed!

File: src/Categories/Adjoint/Construction/Adjunctions/Properties.agda [hunk 5]
```diff
@@ -0,0 +1,186 @@
...
+      ; F₁ = λ f → adj.counit.η _ ∘ F.₁ (GF≃M.⇐.η _ C.∘ f)
+      ; identity = λ {A} →
+        begin
+          adj.counit.η (F.₀ A) ∘ F.₁ (GF≃M.⇐.η A C.∘ M.η.η A) ≈⟨ refl⟩∘⟨ F.F-resp-≈ η-eq ⟩
+          adj.counit.η (F.₀ A) ∘ F.₁ (adj.unit.η A)           ≈⟨ adj.zig ⟩
+          D.id                                                ∎
+      ; homomorphism = λ {X} {Y} {Z} {f} {g} →
+        let ε x = adj.counit.η x in 
+        begin
+          ε _ ∘ F.₁ (GF≃M.⇐.η _ C.∘ (M.μ.η _ C.∘ M.F.₁ g) C.∘ f)                                ≈⟨ refl⟩∘⟨ F.F-resp-≈ (assoc²'' C) ⟩
```
[the remark this answers is not in the document]
Comment (iwilare) [reply src/Categories/Adjoint/Construction/Adjunctions/Properties.agda:98]: We are just underscoring the objects of the natural transformations to remove a bit of clutter and because they are not that useful to follow the proofs... we do not remove morphisms, we're currently working on reintroducing the lhs in those definitions where we removed them altogether.

[the remark this answers is not in the document]
Comment (JacquesCarette) [reply src/Categories/Adjoint/Construction/Adjunctions/Properties.agda:98]: When they are really not useful, it's fine to have them as `_`.  You do have to remember that people read this code (as well as use it).

File: src/Categories/Adjoint/Construction/Adjunctions/Properties.agda (hunk 3 above)
Comment (JacquesCarette) [reply src/Categories/Adjoint/Construction/Adjunctions/Properties.agda]: Great - in another pass, I'll see if I can find more simplifications. [I do my own proofs the same way, i.e. write them whichever way works, then compress/simplify by noticing the combinators that I ought to have used...]
